US08211927B2
Tetrakis(triphenylphosphine)palladium(0) (139 mg, 0.121 mmol) was added to a suspension of 2-(3-fluoro-4-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (350 mg, 1.21 mmol), ethyl 5-bromo-4-methylisoxazole-3-carboxylate (282 mg, 1.21 mmol) and potassium carbonate (334 mg, 2.413 mmol) in DME and water mix. The reaction mixture was sealed in a microwave vial and heated at 100° C. for 2 hours, after which time, the reaction was allowed to cool. The reaction mixture was then diluted with ethyl acetate and washed with water. The aqueous layer was then extracted with ethyl acetate, the organics combined, washed with brine and dried over magnesium sulfate, filtered and concentrated in vacuo. the resulting residue was purified by silica gel chromatography, eluting with heptane to 40% ethylacetate in heptane, to afford ethyl 5-(3-fluoro-4-(trifluoromethyl)phenyl)-4-methylisoxazole-3-carboxylate (196 mg, 0.62 mmol).

reactant | 2-(3-fluoro-4-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.21 mmol, 350 mg | FC=1C=C(C=CC1C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C13H15BF4O2
reactant | ethyl 5-bromo-4-methylisoxazole-3-carboxylate | 1.21 mmol, 282 mg | BrC1=C(C(=NO1)C(=O)OCC)C | C7H8BrNO3
reactant | potassium carbonate | 2.413 mmol, 334 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DME | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.121 mmol, 139 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 5-(3-fluoro-4-(trifluoromethyl)phenyl)-4-methylisoxazole-3-carboxylate | 0.62 mmol, 196 mg | FC=1C=C(C=CC1C(F)(F)F)C1=C(C(=NO1)C(=O)OCC)C | C14H11F4NO3
